US07414131B2
B. N-(4-Fluorophenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine
7-Benzyl-N-(4-fluorophenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine (0.64 g, 1.9 mmol) was dissolved in methanol (25 mL) and palladium hydroxide was added (0.5 g, 20% wt). The mixture was shaken on a Parr Shaker under H2(g) atmosphere (60 PSI) for 1 day. The mixture was filtered through celite and evaporated to give 0.47 g of material as grey crystals (quant.), which was used as such for the next step.

reactant | 7-Benzyl-N-(4-fluorophenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine | 1.9 mmol, 0.64 g | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)NC1=CC=C(C=C1)F | C20H19FN4
solvent | methanol | 25 mL | CO | CH4O
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
product | N-(4-Fluorophenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine | 0.47 g | FC1=CC=C(C=C1)NC=1C2=C(N=CN1)CNCC2 | C13H13FN4
